US04507498
To a cold suspension (7°) of 5 g (0.026 mol) of 1-(2,4-dihydroxy-3-propylphenyl)ethanone in 150 ml of chloroform was added 27 ml (0.027 mol) of 1M bromine in chloroform dropwise. The mixture was stirred at 5° for 45 minutes and solvent was removed in vacuo. The residue was extracted with hot hexane and the hexane extract was boiled down to 50 ml and allowed to crystallize. Filtration gave 5.2 g, melting point 67° (74% yield) of 1-(5-bromo-2,4-dihydroxy-3-propylphenyl)ethanone.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 0.026 mol, 5 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | bromine | 0.027 mol, 1M, 27 ml | BrBr | Br2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(5-bromo-2,4-dihydroxy-3-propylphenyl)ethanone | 5.2 g, 74% yield | BrC=1C(=C(C(=C(C1)C(C)=O)O)CCC)O | C11H13BrO3
